US07781454B2
Step 7: 8-(3-bromo-5-chlorophenoxy)-7-methyl-3-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)[1,2,4]triazolo[4,3-a]pyridine
A mixture of N′-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetohydrazide (44 mg, 0.090 mmol) in phosphorus oxychloride (250 μL, 2.6 mmol) was heated to 120° C. for 35 minutes, after which the excess reagent was removed in vacuo and the residue partitioned between saturated aqueous NaHCO3 (20 mL) and CH2Cl2 (2×20 mL). The combined extracts were concentrated in vacuo and the residue was purified on a Luna column (10μ, C18, 250×21.2 cm) eluting with 5-95% ACN/water with 0.1% TFA) to give the title compound. LRMS (M+1)=470.7.

reactant | N′-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetohydrazide | 0.090 mmol, 44 mg | BrC=1C=C(OC=2C(=NC=CC2C)NNC(CC2=NNC3=NC=CC=C32)=O)C=C(C1)Cl | C20H16BrClN6O2
reactant | phosphorus oxychloride | 2.6 mmol, 250 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(3-bromo-5-chlorophenoxy)-7-methyl-3-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)[1,2,4]triazolo[4,3-a]pyridine | BrC=1C=C(OC=2C=3N(C=CC2C)C(=NN3)CC3=NNC2=NC=CC=C23)C=C(C1)Cl | C20H14BrClN6O
